US04010209
Preparation of 1-allyl-3-methyl-3-phospholene-1-oxide.
To 8 g. (0.0448 mole) of 1-(chloropropoxy)-3-methyl-3-phospholene there was added 2.9 g. (0.05 mole) of allyl alcohol. The mixture was allowed to stand at room temperature and then distilled under reduced pressure to remove volatile material. There was thus obtained 1-allyl-3-methyl-3-phospholene-1-oxide.

reactant | 1-(chloropropoxy)-3-methyl-3-phospholene | 0.0448 mole | ClCCCOP1CC(=CC1)C | C8H14ClOP
reactant | allyl alcohol | 0.05 mole | C(C=C)O | C3H6O
product | 1-allyl-3-methyl-3-phospholene-1-oxide | C(C=C)P1(CC(=CC1)C)=O | C8H13OP
